US06265575B1
Part A. 2-(4-Methoxyphenyl)benzofuran
A solution of 46.0 g (0.39 mole) of benzofuran in 100 mL of Et2O was treated with 0.40 mol (1.6 M in hexanes) of n-BuLi at such a rate as to keep the reaction temperature below 25° C. The mixture was stirred for 15 min and was added to a 10° C. solution of 57.2 g (0.40 mole) of CuBr in 100 mL of Et2O at a rate so as to keep the reaction temperature below 10° C. The mixture was allowed to reach room temperature over 0.5 h and was treated with a solution of 93.6 g of iodoanisole in 300 mL of pyridine. The mixture was heated to 110° C. for 3 h, allowing the Et2O to boil off. The reaction mixture was concentrated in vacuo and the residue was dissolved in 3 L of EtOAc. The organic layer was washed several times with 2 N aqueous HCl and once with H2O, dried over MgSO4, and filtered. Concentration in vacuo afforded a residue which was recrystallized from MeOH to afford 44.5 g of the title compound as a solid.

reactant | benzofuran | 0.39 mole, 46.0 g | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | n-BuLi | 0.40 mol, 1.6 M | [Li]CCCC
reactant | iodoanisole | 93.6 g | IC1=C(C=CC=C1)OC | C7H7IO
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Methoxyphenyl)benzofuran | 44.5 g | COC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C15H12O2
